US07119207B2
7-{[1-(4,5-Dihydro-1H-imidazol-2-yl)-(2S,3S)-2-phenyl-piperidin-3-ylamino]-methyl}-6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one
3-[(6-Methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-ylmethyl)-amino]-(2S,3S)-2-phenyl-piperidine-1-carbothioic acid (2-amino-ethyl)-amide (660 mg, 1.38 mmol) and mercury (II) oxide (600 mg, 2.75 mmol) were stirred in 30 mL of ethanol at reflux for 4 hours. The black reaction was filtered through Celite and the filtrate was concentrated. Silica gel chromatography using (9:1 chloroform/methanol) gave 225 mg (37% yield) of the title compound, a yellow oil. Rf=0.06 (9:1 chloroform/methanol). MS (M+H)+=448.2; 1H NMR (400 MHz, CD3OD): δ 1.79–2.00 (m, 4H), 2.49–2.53 (t, J=7.2 Hz, 2H), 2.80–2.84 (t, J=7.2 Hz, 2H), 3.19–3.23 (m, 1H), 3.25 (s, 3H), 3.28–3.31 (m, 1H), 3.48–3.54 (m, 1H), 3.61 (bs, 1H), 3.66 (s, 3H), 3.69 (s, 4H), 3.75–3.89 (m, 4H), 5.14–5.15 (d, J=5.6 Hz, 1H), 6.77 (s, 1H), 6.97 (s, 1H), 7.33–7.42 (m, 3H), 7.57–7.59 (d, J=7.3 Hz, 2H). 13C NMR (100 MHz, CD3OD): δ 24.0, 35.5, 26.1, 30.2, 32.6, 44.0, 44.2, 47.1, 562, 57.8, 61.6, 61.9, 111.5, 118.1, 127.5, 127.8, 129.5, 129.9, 130.1, 134.6, 137.0, 154.9, 161.3, 172.4. The dihydrochloride salt was prepared by the addition of 2 M HCl in ether to a solution of the product in ethyl acetate. Concentration gave a white solid.

reactant | 3-[(6-Methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-ylmethyl)-amino]-(2S,3S)-2-phenyl-piperidine-1-carbothioic acid (2-amino-ethyl)-amide | 1.38 mmol, 660 mg | NCCNC(=S)N1[C@H]([C@H](CCC1)NCC1=C(C=C2CCC(N(C2=C1)C)=O)OC)C1=CC=CC=C1 | C26H35N5O2S
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | mercury (II) oxide | 2.75 mmol, 600 mg | [Hg]=O
product | 7-{[1-(4,5-Dihydro-1H-imidazol-2-yl)-(2S,3S)-2-phenyl-piperidin-3-ylamino]-methyl}-6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 225 mg, 37% yield | N1C(=NCC1)N1[C@H]([C@H](CCC1)NCC1=C(C=C2CCC(N(C2=C1)C)=O)OC)C1=CC=CC=C1 | C26H33N5O2
